US05312828
Ethyl 3-ketoheptanoate (2.07 g, 12 mmol) was dissolved in dimethylformamide (60 mL) under argon and sodium hydride (357 mg, 14.4 mmol) was added. After 30 minutes at room temperature the solid N-phenyltrifluoromethanesulfonimide (Tetra. Letters, (1983), 24, 979) (4.97 g, 13.8 mmol) was added. The reaction was stirred for 2 hours, diluted with ether/water and the usual workup gave after chromatography with 5:95 ether/hexane 3.45 g (94%) of ethyl 3-trifluoromethanesulfonyloxy-2-heptenoate.

reactant | Ethyl 3-ketoheptanoate | 12 mmol, 2.07 g | O=C(CC(=O)OCC)CCCC | C9H16O3
reactant | sodium hydride | 14.4 mmol, 357 mg | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 13.8 mmol, 4.97 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | ether hexane | 3.45 g | CCOCC.CCCCCC
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | ether water | CCOCC.O
product | ethyl 3-trifluoromethanesulfonyloxy-2-heptenoate | FC(S(=O)(=O)OC(=CC(=O)OCC)CCCC)(F)F | C10H15F3O5S
